US07053089B2
4-Cyclopropyl-benzoic acid ethyl ester (2.46 g, 13 mmol), and THF (250 mL) were combined under nitrogen and cooled in an IPA/dry ice bath to −70° C. Lithium aluminum hydride solution (20 mL, 20 mmol, 1.0M) was added dropwise. After 2 h excess lithium aluminum hydride was quenched by adding EtOAc dropwise. The reaction was warmed to 25° C., then the solvent was removed in vacuo. Water (200 mL) and a few drops of HCl(aq, 6N) were added. The mixture was extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried with Na2SO4 and filtered. The filtrate was removed in vacuo and the remaining residue was purified by flash column chromatography (hexane:EtOAc 40:60) to give (4-cyclopropyl-phenyl)-methanol as a colorless oil.

reactant | 4-Cyclopropyl-benzoic acid ethyl ester | 13 mmol, 2.46 g | C(C)OC(C1=CC=C(C=C1)C1CC1)=O | C12H14O2
reactant | Lithium aluminum hydride | 20 mmol, 1.0M, 20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4-cyclopropyl-phenyl)-methanol | C1(CC1)C1=CC=C(C=C1)CO | C10H12O
